US07893062B2
d) rac-N-((3S,4R)-1-Benzyl-4-phenyl-pyrrolidin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide (VI-1)
A solution of 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride (the preparation of which is described in WO2002079134) (0.88 g, 2.76 mmol) in CH2Cl2 (2 ml) was added drop wise to a stirred solution of rac-((3S,4R)-1-benzyl-4-phenyl-pyrrolidin-3-yl)-methyl-amine (0.72 g, 2.70 mmol) and ethyl-diisopropyl-amine (0.64 ml, 3.76 mmol) in CH2Cl2 (5 ml). The reaction mixture was stirred 1 h, concentrated under vacuo and purification by flash chromatography (SiO2, EtOAc/H, 1:4) yielded 1.05 g (74%) of the title product as colorless foam.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
reactant | rac-((3S,4R)-1-benzyl-4-phenyl-pyrrolidin-3-yl)-methyl-amine | 2.70 mmol, 0.72 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC=CC=C1)NC | C18H22N2
reactant | ethyl-diisopropyl-amine | 3.76 mmol, 0.64 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | rac-N-((3S,4R)-1-Benzyl-4-phenyl-pyrrolidin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 1.05 g, 74% | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC=CC=C1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C | C30H30F6N2O
